US06333349B1
3.0 g of 7-chloro-9-methyl-3,4-dihydro-2H-1-benzoxepin-5-one, 50 ml of anhydrous methanol, 10.9 g of ammonium acetate and 0.63 g of sodium cyanoborohydride were stirred for 5 h at 60° C. and then for 2 days at RT. The reaction mixture was then acidified with hydrochloric acid and then concentrated on a rotary evaporator. The residue was taken up in water, and the solution was rendered alkaline with ammonia solution and extracted with EA. After drying and concentrating, the product was purified by chromatography on silica gel using ethyl acetate/methanol 9:1 and 1.3 g of 5-amino-7-chloro-9-methyl-2,3,4,5-tetrahydro-1-benzoxepine were obtained.

reactant | 7-chloro-9-methyl-3,4-dihydro-2H-1-benzoxepin-5-one | 3.0 g | ClC=1C=C(C2=C(C(CCCO2)=O)C1)C | C11H11ClO2
reactant | ammonium acetate | 10.9 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 0.63 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5-amino-7-chloro-9-methyl-2,3,4,5-tetrahydro-1-benzoxepine | 1.3 g | NC1CCCOC2=C1C=C(C=C2C)Cl | C11H14ClNO
